2161-11-23 07:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2161-11-23**] 02:25 AM
 BLOOD CULTURED - At [**2161-11-23**] 03:39 AM
 URINE CULTURE - At [**2161-11-23**] 03:40 AM
   Allergies:
   Iodine; Iodine Containing
   Rash;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   flushing;
   Last dose of Antibiotics:
   Piperacillin - [**2161-11-23**] 04:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 130 (124 - 130) bpm
   BP: 103/54(66) {99/54(63) - 105/72(76)} mmHg
   RR: 23 (22 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
             3,819 mL
   PO:
             TF:
   IVF:
   819 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    430 mL
   Urine:
   80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   NAD
   Prominent left sided supraclav/cerv adenop
   Decreased BS at the bases but clear ant/sup
   Large vol ascites and decreased BS with positive fluid wave.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: verbal, Movement: spont, Tone: normal, A+O x
   0-1
   Ext: 2+ lower ext  edema
   Labs / Radiology
   11.3 g/dL
   60 K/uL
   80 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.9 mEq/L
   50 mg/dL
   100 mEq/L
   129 mEq/L
   32.8 %
   10.3 K/uL
         [image002.jpg]
                            [**2161-11-23**]  02:39 AM
   WBC
   10.3
   Hct
   32.8
   Plt
   60
   Cr
   1.3
   TropT
   <0.01
   Glucose
   80
   Other labs: PT / PTT / INR:14.5/31.0/1.3, CK / CKMB /
   Troponin-T:39//<0.01, ALT / AST:112/504, Alk Phos / T Bili:398/0.9,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:14.0 %, Mono:4.0 %,
   Eos:0.0 %, Fibrinogen:251 mg/dL, Albumin:2.4 g/dL, LDH:5805 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   CXR [**11-22**]: clear lungs with no visible effusion and no focal
   infiltrates
   Assessment and Plan
   33 yo female with hx of widely metastatic melanoma s/p multiple
   chemotherapeutic regimens admitted with altered MS, acute renal failure
   with hydronephrosis s/p right sided stenting, elevated lactate and UTI
   at OSH where she had a negative V/Q and LENI for thrombus as a source
   to her tachycardia and she received Vanco and Pip-Tazo. Her current
   presentation is concerning for MOSF of unclear etiology.
   > SIRS/Sepsis: there are multiple sources to consider in this patient
   including her known recent UTI , ureteral stent (but persistent
   hydronephrosis) , the peritoneal fluid and her indwelling port. At this
   point her WBC has improved and she is afebrile . She is on broad
   spectrum coverage for  the above with Vanco / Pip-tazo pending
   additional clx data.  Will need to discuss with urology ? persistently
   infected stent. Alternatively her tachycardia and hypotension may not
   be infectious we would be concerned for pericardial effusion,
   - Cont broad coverage
   - Urology consult
   - Dx paracentesis
   - Follow up clx  data
   - Cont fluid boluses, follow serial lactate (although underlying liver
   dysfunction makes this difficult to interpret)
   >Hypoxemia: likely multifactorial with atlectasis [**2-7**] bilateral pleural
   effusions playing a role (although the effusions are small) In
   addition, the ascites is creating a new functional restriction deficit
   which compounds her atlectasis.  Certainly with her underlying
   malignancy she is at increased risk for pulmonary embolus although she
   has negative V/Q and LENI which is re-assuring.  Given the small size
   of the effusion there is no benefit to sampling.
   > Ascites/Liver failure: she has had a progressive increase in her LFTs
   (sparing bili) since [**11-20**]. The acuity in presentation is very
   concerning for a thrombosis in the portal/splenic system especially in
   combination with the progressive thrombocytopenia.  An alternate
   possibility  would be metastasis although this was not adequately
   evaluated by CT (contrast allergy), specifically peritoneal
   carcinomatosis.   Sampling of the ascetic fluid is potentially helpful
   from both a diagnostic and therapeutic standpoint.
   - Dx paracentesis
   - F/u US Abd with doppler
   > Thrombocytopenia: splenic sequestration as above, hemolysis (although
   nl bili), possibly med related (heparin? Vanco and Pip-tazo) and DIC.
   No evidence of hemolysis although there is evidence of hemolysis. ,
   - Check periph smear
   -  Hapto
   - DIC labs
   > Renal failure: this seems to be due in at least part to a pre-renal
   state in the setting of decreased PO intake and there has been some
   improvement with hydration however post obstructive causes given the
   bulky retroperitoneal adenopathy and continued right sided
   hydronephrosis (despite stent placement) although it is unlikely that
   one sided hydro could account solely for this clinical picture. Finally
   with her new transaminitis. Hold bactrim. Check urine eos for ? acute
   interstitial nephritis.
   - Urology consult for evalu
   > Hyponatremia:  seems unlikely to be solely explained by volume
   depletion although her Una is below the limits of detection which
   argues strongly for a pre-renal state implying decreased perfusion of
   the kidneys.  There is no evidence of SIADH of ATN based on urine lytes
   at this point.
   > Altered MS: multi-factorial, no obvious AIP on CT scan of the head,
   with infection, toxic-metabolic (morphine, hyponatremia) also playing a
   role compounded by progressive liver failure and renal failure.
       Oncology: widely metastatic melanoma. We will discuss the goals
   of care / future treatments with the oncology team, deferring any
   treatment at present given her MOSF.
   Addendum-
   Persistent baseline tachycardia with (-) LENI/ Low prob V/Q prelim  and
   new TR in ECHO- no clear evidence PE. Given the risk and benefits we
   will withhold anticoagulation.
   Metabolic AG acidosis- check lactate.
   We will discuss with family and Dr [**Last Name (STitle) 2048**] goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Tunneled (Hickman) Line - [**2161-11-23**] 02:25 AM
   Prophylaxis:
   DVT:, SQ Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-11-24 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2161-11-23**] 08:10 AM
   abdominal to look at ascites
 BLOOD CULTURED - At [**2161-11-23**] 08:11 AM
 ULTRASOUND - At [**2161-11-23**] 01:20 PM
   abdominal to look at ascites
   > Total of 9L of fluid received in bolus format
   Allergies:
   Iodine; Iodine Containing
   Rash;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   flushing;
   Last dose of Antibiotics:
   Piperacillin - [**2161-11-23**] 04:08 AM
   Vancomycin - [**2161-11-23**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-24**] 06:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2161-11-24**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 127 (122 - 136) bpm
   BP: 102/65(73) {87/48(65) - 115/68(78)} mmHg
   RR: 34 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  8,503 mL
                                                                  1,800 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  5,303 mL
                                                                  1,800 mL
   Blood products:
   Total out:
                                                                    794 mL
                                                                    149 mL
   Urine:
                                                                    444 mL
                                                                    149 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,709 mL
                                                                  1,651 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///11/
   Physical Examination
   General Appearance: Thin, Anxious, some use of accessory muscles
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, ascites
   +fluid wave increasing from yesterday and painful to palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   11.2 g/dL
   36 K/uL
   52 mg/dL
   1.2 mg/dL
   11 mEq/L
   4.6 mEq/L
   55 mg/dL
   111 mEq/L
   137 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
                            [**2161-11-23**]  02:39 AM
                            [**2161-11-23**]  02:28 PM
                            [**2161-11-24**]  05:17 AM
   WBC
   10.3
   11.0
   Hct
   32.8
   33.4
   Plt
   60
   36
   Cr
   1.3
   1.1
   1.2
   TropT
   <0.01
   Glucose
   80
   70
   52
   Other labs: PT / PTT / INR:16.1/33.7/1.4, CK / CKMB /
   Troponin-T:39//<0.01, ALT / AST:108/453, Alk Phos / T Bili:310/1.3,
   Amylase / Lipase:39/, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:14.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:251 mg/dL, Lactic Acid:4.4 mmol/L,
   Albumin:2.1 g/dL, LDH:5619 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.2 mg/dL
   CXR:
   Assessment and Plan
   33 yo female with hx of widely metastatic melanoma s/p multiple
   chemotherapeutic regimens admitted with altered MS, acute renal failure
   with hydronephrosis s/p right sided stenting, elevated lactate and UTI
   at OSH where she had a negative V/Q and LENI for thrombus as a source
   to her tachycardia and she received Vanco and Pip-Tazo. Her current
   presentation is concerning for MOSF of likely due in part to malignant
   effusion in the peritoneum with probable invasion of the lymphatics.
   > SIRS/Sepsis: there are multiple sources to consider in this patient
   including her known recent UTI , ureteral stent (but persistent
   hydronephrosis) , the peritoneal fluid and her indwelling port. At this
   point her WBC has improved and she is afebrile . She is on broad
   spectrum coverage for  the above with Vanco / Pip-tazo pending
   additional clx data
   - Cont broad coverage
   - Follow up clx  data
   >Hypoxemia: likely multifactorial with atlectasis [**2-7**] bilateral pleural
   effusions playing a role (although the effusions are small) In
   addition, the ascites is creating a new functional restriction deficit
   which compounds her atlectasis.  Certainly with her underlying
   malignancy she is at increased risk for pulmonary embolus although she
   has negative V/Q and LENI which is re-assuring. She has remained
   persistently tachycardic with increased cortisol and now s/p aggressive
   IV hydration (9L).  Given the small size of the effusion there is no
   benefit to sampling. She would likely benefit from large volume
   paracentesis today, however this is only a temporizing measure as the
   etiology of the effusion is most likely malignant.
   - check CXR, if increasing pulm edema would consider NIPPV
   - large volume paracentesis
   > Ascites/Liver failure: she has had a progressive increase in her LFTs
   (sparing bili) since [**11-20**]. The ascites is chylous  with elevated
   triglycerides is consistent with malignancy. We can consider large
   volume paracentesis today which could be helpful in a temporizing sense
   but this is a protein [**Doctor First Name **] fluid which if repeatedly drained would only
   worsen her nutritional status (protein and trig [**Doctor First Name **] fluid)
   - Therapeutic  paracentesis (will need to prophylaxis plts)
   > Thrombocytopenia: splenic sequestration as above (but only mild
   splenomegaly), hemolysis (although nl bili), possibly med related
   (heparin? Vanco and Pip-tazo) and DIC . There may be some small
   component of dilution although this does not explore the entire
   picture. Would hold heparin SQ and check HIT. Repeat hemolytic workup.
   - Check HIT
   -  Repeat
   - DIC labs
   > Renal failure: this seems to be due in at least part to a pre-renal
   state in the setting of decreased PO intake and there has been some
   improvement with hydration however post obstructive causes given the
   bulky retroperitoneal adenopathy and continued right sided
   hydronephrosis (despite stent placement) although it is unlikely that
   one sided hydro could account solely for this clinical picture. There
   may also be a new component of RTA present as well with the + UAG
   although this could also represent a dilutional effect from the volume
   resus. Would favor empiric repletion of HCO3 and future re-hydration
   with LR.  Finally, her Cr although improved does show evidence of casts
   and her recent increase in Una is suggestive of an additional ATN
   component which we will need to follow carefully.
   - HCO3, change fluids to LR
   - Check ABG
   - Neg urine eos
   - Urology: IVP when patient more stable.
   > Hyponatremia:  seems to have improved with fluid resus. .
   > Altered MS: multi-factorial, no obvious AIP on CT scan of the head,
   with infection, toxic-metabolic (morphine, hyponatremia) also playing a
   role compounded by progressive liver failure and renal failure.  She
   has improved to some degree from [**11-23**]
   >Oncology: widely metastatic melanoma. We will discuss the goals of
   care / future treatments with the oncology team, deferring any
   treatment at present given her MOSF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2161-11-23**] 02:25 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   NOTE:  I spoke with Dr. [**Last Name (STitle) 2048**] regarding the patient
s current clinical
   status and poor prognosis. At this point he will discuss her case with
   colleagues in Bethesda and if no further therapy available a
   consideration to change her goals of care towards comfort measures only
   should be made. A consideration to palliative medicine and hospice
   should be also entertained, if no further therapy available tumor.

2161-11-25 07:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2161-11-24**] 05:59 PM
   > Family meeting with decision to change care to comfort measures
   (DNR/I)
   Allergies:
   Iodine; Iodine Containing
   Rash;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   flushing;
   Last dose of Antibiotics:
   Piperacillin - [**2161-11-23**] 04:08 AM
   Vancomycin - [**2161-11-23**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-24**] 10:00 PM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-11-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2161-11-24**] 08:00 AM
   Lorazepam (Ativan) - [**2161-11-24**] 10:21 PM
   Morphine Sulfate - [**2161-11-25**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 116 (116 - 155) bpm
   BP: 92/58(67) {84/58(67) - 144/99(109)} mmHg
   RR: 41 (25 - 55) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  4,451 mL
                                                                    578 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  4,093 mL
                                                                    578 mL
   Blood products:
                                                                    298 mL
   Total out:
                                                                  1,394 mL
                                                                     15 mL
   Urine:
                                                                    394 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                  3,057 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///12/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Distended, Tender: diffusely
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   12.1 g/dL
   54 K/uL
   95 mg/dL
   1.5 mg/dL
   12 mEq/L
   4.8 mEq/L
   67 mg/dL
   103 mEq/L
   136 mEq/L
   35.9 %
   15.8 K/uL
        [image002.jpg]
                            [**2161-11-23**]  02:39 AM
                            [**2161-11-23**]  02:28 PM
                            [**2161-11-24**]  05:17 AM
                            [**2161-11-24**]  10:47 PM
   WBC
   10.3
   11.0
   15.8
   Hct
   32.8
   33.4
   35.9
   Plt
   60
   36
   54
   Cr
   1.3
   1.1
   1.2
   1.5
   TropT
   <0.01
   Glucose
   80
   70
   52
   95
   Other labs: PT / PTT / INR:16.1/33.7/1.4, CK / CKMB /
   Troponin-T:39//<0.01, ALT / AST:108/453, Alk Phos / T Bili:310/1.3,
   Amylase / Lipase:39/, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:14.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:251 mg/dL, Lactic Acid:7.1 mmol/L,
   Albumin:2.1 g/dL, LDH:5619 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   33 yo female with widely metastatic melanoma, malignant ascites [**2-7**]
   tumor invasion of the lymphatics, renal failure, thrombocytopenia and
   progressively deteriorating respiratory function. The patients
   oncologist Dr. [**Last Name (STitle) 2048**] met with family and ufortunately there are no
   treatments available to the patient and her  course is complicated by
   MOSF. The plan for now will focus on pain control and comfort for the
   patient
   - Hold labs, non essential medications
   - Morphine and ativan titrate to respiratory comfort
   - family support
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2161-11-23**] 02:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Comfort care
   Disposition :Comfort care
   Total time spent: 35 minutes
   Patient is critically ill

2161-11-25 07:56:00 Physician Resident Progress Note
Chief Complaint: multiorgan failure
   24 Hour Events:
 PARACENTESIS - At [**2161-11-24**] 05:59 PM
   - Para performed, 2+ L off, not much respiratory relief.
   - Dr. [**Last Name (STitle) 2048**] came to see, made DNR/DNI with comfort focus,
   transitioning truly to CMO overnight.  On morphine gtt at 4 mg/h
   currently; has been uptitrated overnight due to persistent tachypnea.
   Allergies:
   Iodine; Iodine Containing
   Rash;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   flushing;
   Last dose of Antibiotics:
   Piperacillin - [**2161-11-23**] 04:08 AM
   Vancomycin - [**2161-11-23**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-24**] 10:00 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-11-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2161-11-24**] 08:00 AM
   Lorazepam (Ativan) - [**2161-11-24**] 10:21 PM
   Morphine Sulfate - [**2161-11-25**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-25**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 108 (108 - 155) bpm
   BP: 92/58(67) {84/58(67) - 144/99(109)} mmHg
   RR: 32 (25 - 55) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  4,451 mL
                                                                    587 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  4,093 mL
                                                                    587 mL
   Blood products:
                                                                    298 mL
   Total out:
                                                                  1,394 mL
                                                                     15 mL
   Urine:
                                                                    394 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                  3,057 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///12/
   Physical Examination
   Somewhat tachypneic, though significantly improved, does not currently
   appear uncomfortable..  Nasal cannula in place.  Husband at bedside.
   Labs / Radiology
   54 K/uL
   12.1 g/dL
   95 mg/dL
   1.5 mg/dL
   12 mEq/L
   4.8 mEq/L
   67 mg/dL
   103 mEq/L
   136 mEq/L
   35.9 %
   15.8 K/uL
        [image002.jpg]
                            [**2161-11-23**]  02:39 AM
                            [**2161-11-23**]  02:28 PM
                            [**2161-11-24**]  05:17 AM
                            [**2161-11-24**]  10:47 PM
   WBC
   10.3
   11.0
   15.8
   Hct
   32.8
   33.4
   35.9
   Plt
   60
   36
   54
   Cr
   1.3
   1.1
   1.2
   1.5
   TropT
   <0.01
   Glucose
   80
   70
   52
   95
   Other labs: PT / PTT / INR:16.1/33.7/1.4, CK / CKMB /
   Troponin-T:39//<0.01, ALT / AST:108/453, Alk Phos / T Bili:310/1.3,
   Amylase / Lipase:39/, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:14.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:251 mg/dL, Lactic Acid:7.1 mmol/L,
   Albumin:2.1 g/dL, LDH:5619 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   33F with metastatic melanoma, admitted with renal failure, liver
   dysfunction, new chylous ascites; suspected secondary to worsening
   malignant disease.  During this admission, and especially in the last
   24 hours, she has continued to worsen clinically with increased
   confusion, increased discomfort, respiratory distress despite relief of
   ascites, worsening metabolic acidosis and likely worsening renal and
   hepatic dysfunction.  After discussion yesterday with patient
s family
   and primary oncologist, decision made to focus on comfort care.
   Morphine boluses changed to morphine gtt due to inadequate pain and air
   hunger control, with improvement in particular this AM.  Patient
   husband aware that passing anticipated within the next few hours.
   -          morphine gtt to comfort.
   -          Ativan prn, though husband prefers not to give due to past
   bad reactions to this.
   -          Family support and coping; palliative care consult if able.
   -          d/c labs, radiology, unnecessary meds.
   ICU Care
   Nutrition:
   Comments: Comfort
   Glycemic Control:  Comments: Comfort
   Lines:
   Tunneled (Hickman) Line - [**2161-11-23**] 02:25 AM
   Prophylaxis:
   DVT: Comfort
   Stress ulcer: Comfort
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:ICU